US05892024
3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-carbethoxyethyl thymidine
To a stirred solution of 3'-O-t-butyldimethylsilyl-5'-carbethoxymethylene-5'-deoxy-thymidine (4.24 g, 10 mmol) in ethyl acetate was added 200 mg of 10% Pd/C under nitrogen atmosphere. The nitrogen gas was removed by vacuum and hydrogen was introduced. This procedure was repeated twice, and stirring was continued under atmospheric pressure of hydrogen for 16 hours. The catalyst was filtered over a celite pad, and the solvent was removed in vacuo. The title compound was crystallized from hexane/ethyl acetate. The title compound was obtained in 95% yield.

reactant | 3'-O-t-butyldimethylsilyl-5'-carbethoxymethylene-5'-deoxy-thymidine | 10 mmol, 4.24 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1C=CC(=O)OCC)N1C(=O)NC(=O)C(C)=C1 | C20H32N2O6Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3'-O-t-Butyldimethylsilyl-5'-deoxy-5'-carbethoxyethyl thymidine | 95% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CCCC(=O)OCC)N1C(=O)NC(=O)C(C)=C1 | C21H36N2O6Si
